US07534797B2
3-Nitro-4-[(2-oxo-2-phenylethyl)amino]benzoic acid
A DCM (50 mL) suspension of 4-[(2-hydroxy-2-phenylethyl)amino]-3-nitrobenzoic acid (1.0 g, 3.3 mmol) was treated with Dess-Martin periodinane reagent (1.5 g, 3.5 mmol) at rt in one lot. The reaction mixture was stirred at rt for 2 h. The solid was filtered off and washed with DCM to afford the title compound as a yellow solid; 1H NMR (400 MHz, DMSO-d6) δ 12.97 (br, 1H), 9.08 (t, J=4.4 Hz, 1H), 8.67 (d, J=2.0 Hz, 1H), 8.14 (d, J=8.0 Hz, 2H), 8.01 (dd, J=1.6 Hz, 8.8 Hz, 1H), 7.72 (t, J=7.6 Hz, 1H), 7.61 (t, J=7.6 Hz, 2H), 7.23 (d, J=8.8 Hz, 1H), 5.14 (d, J=4.8 Hz, 2H). MS (ES+): m/z 301.1 (40) [MH+]; HPLC: tR=3.10 min (OpenLynx, polar—5 min).

reactant | 4-[(2-hydroxy-2-phenylethyl)amino]-3-nitrobenzoic acid | 3.3 mmol, 1.0 g | OC(CNC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C15H14N2O5
reactant | Dess-Martin periodinane | 3.5 mmol, 1.5 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-Nitro-4-[(2-oxo-2-phenylethyl)amino]benzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1NCC(C1=CC=CC=C1)=O | C15H12N2O5
